US07504410B2
Cyclopropyl amine (0.275 mmole) was dissolved in THF (2 ml) and thiocarbonyl diimidazole (0.28 mmole) was added. The reaction was stirred at room temperature overnight and N2-(4-Amino-phenyl)-5-bromo-N4-[2-(3H-imidazol-4-yl)-ethyl]-pyrimidine-2,4-diamine (0.26 mmole) was added as a solution in THF (3 ml) and DMF (1 ml) and the reaction was stirred overnight. After removal of the solvents under reduced pressure the crude product was purified by flashmaster chromatography (dichloromethane: MeOH 9:1) to yield 12.5 mg of 1-(4-{5-Bromo-4-[2-(3H-imidazol-4-yl)-ethylamino]-pyrimidin-2-ylamino}-phenyl)-3-cyclopropyl-thiourea. ESI-MS: 474.

reactant | Cyclopropyl amine | 0.275 mmole | C1(CC1)N | C3H7N
reactant | thiocarbonyl diimidazole | 0.28 mmole | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
reactant | N2-(4-Amino-phenyl)-5-bromo-N4-[2-(3H-imidazol-4-yl)-ethyl]-pyrimidine-2,4-diamine | 0.26 mmole | NC1=CC=C(C=C1)NC1=NC=C(C(=N1)NCCC=1NC=NC1)Br | C15H16BrN7
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(4-{5-Bromo-4-[2-(3H-imidazol-4-yl)-ethylamino]-pyrimidin-2-ylamino}-phenyl)-3-cyclopropyl-thiourea | 12.5 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)NC(=S)NC1CC1)NCCC=1NC=NC1 | C19H21BrN8S
